US07459448B2
2-Amino-9-chloro-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-23)
In a manner similar to that described for method I (NaHCO3 used instead of K2CO3), guanidine hydrochloride and 8-chloro-4-((dimethylamino)methylene)-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-j) were converted to I-23 (72%): HRMS Calcd. for C12H9ClN4O: 261.0543, Found 261.0543.

reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | guanidine hydrochloride | Cl.NC(=N)N
reactant | 8-chloro-4-((dimethylamino)methylene)-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(NC(CC(C2=O)=CN(C)C)=O)C1 | C13H13ClN2O2
product | 2-Amino-9-chloro-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)Cl)N1 | C12H9ClN4O
